US04914202
2-[4-Amino-3-cyanophenyl]-4-[1-methylethyl]morpholine monohydrochloride
Borane in tetrahydrofuran (1.0M solution; 7.5 ml) was added dropwise, at ambient temperature, to a stirred solution of 2-[4-amino-3-cyanophenyl]-4-[1-methylethyl]-5-oxomorpholine (0.83 g) in dry tetrahydrofuran (60 ml) under nitrogen. The mixture was then heated under reflux with stirring, under nitrogen, for three hours, cooled and methanol (4 ml) in tetrahydrofuran (10 ml) added carefully. The mixture was heated under reflux for one hour, cooled, hydrogen chloride gas passed and the mixture heated under reflux for one hour. After cooling and evaporation to dryness, the residue was dissolved in dilute hydrochloric acid, washed with diethyl ether, the aqueous phase made alkaline by addition of dilute aqueous sodium hydroxide and extracted with dichloromethane. The dichloromethane extracts were washed with brine, dried over anhydrous magnesium sulphate, filtered and the filtrate evaporated to dryness. The residual oil was purified by chromatography on silica gel using 2-3% methanol in dichloromethane as eluant. Conversion to its hydrochloride salt by addition of ethereal hydrogen chloride and recrystallisation from acetone-diethyl ether gave the title compound, m.p. 200°-2° C., as a white solid.

reactant | Borane | B | BH3
reactant | 2-[4-amino-3-cyanophenyl]-4-[1-methylethyl]-5-oxomorpholine | 0.83 g | NC1=C(C=C(C=C1)C1CN(C(CO1)=O)C(C)C)C#N | C14H17N3O2
reactant | methanol | 4 ml | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 1.0M, 7.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[4-Amino-3-cyanophenyl]-4-[1-methylethyl]morpholine monohydrochloride | Cl.NC1=C(C=C(C=C1)C1CN(CCO1)C(C)C)C#N | InChI=1S/C14H19N3O.ClH/c1-10(2)17-5-6-18-14(9-17)11-3-4-13(16)12(7-11)8-15;/h3-4,7,10,14H,5-6,9,16H2,1-2H3;1H
